* netlist to assure that various
* combinations of output-limiting options work
* together
* In this version, we only limit output to final period of
* sinusoidal source through a resistor

vin   1 0 sin(0 1 1Hz 0 0 90) 
r1 1 0 1k

* tstart=4s should prevent output prior to t=4
.tran 0.1 5 4
.print tran v(1)
.end