* netlist to assure that various
* combinations of output-limiting options work
* together
* In this version, we output only the last cycle
* of a sinusoidal source through a resistor
* at fixed output intervals of 0.25s

vin   1 0 sin(0 1 1Hz 0 0 90) 
r1 1 0 1k

.tran 0.1 5 4
.print tran v(1)
.options output initial_interval=0.25
.end
